### PR TITLE
feat: getLsb_signExtend

### PR DESCRIPTION
**Pull request by bollu**
The key idea is to notice that `signExtend` behavior is controlled by the `msb`. When `msb = false`, `sext` behaves the same as `trunc`. When `msb = true`, `sext` behaves like `trunc` but adds high 1-bits. This is expressed using the negate-truncate-negate pattern. Lemma statements below:

```lean
theorem signExtend_eq_neg_truncate_neg_of_msb_false {x : BitVec w} {v : Nat} (hmsb : x.msb = false) :
    (x.signExtend v) = x.truncate v := by
 
theorem signExtend_eq_neg_truncate_neg_of_msb_true {x : BitVec w} {v : Nat} (hmsb : x.msb = true) :
    (x.signExtend v) = ~~~((~~~x).truncate v) := by
```

These give the final theorem statement:

```lean
theorem getLsb_signExtend {x  : BitVec w} {v i : Nat} :
    (x.signExtend v).getLsb i = (decide (i < v) && if i < w then x.getLsb i else x.msb) := by
```

### CODE REVIEW

File: src/Init/Data/BitVec/Lemmas.lean [hunk 1]
```diff
@@ -629,6 +633,212 @@ theorem shiftLeft_shiftLeft {w : Nat} (x : BitVec w) (n m : Nat) :
...
+  rw [BitVec.toInt_eq_toNat_cond]
+  rcases hmsb : x.msb with rfl | rfl
+  · simp [hmsb]
+    intros h
+    have hlt := BitVec.msb_eq_false_iff_small.mp hmsb
+    omega
+  · simp [hmsb]
+    have hgt := BitVec.msb_eq_true_iff_large.mp hmsb
+    have hgt' : ¬ (2 * x.toNat < 2 ^ w) := by omega
+    simp [hgt']
```
Comment (alexkeizer) [inline src/Init/Data/BitVec/Lemmas.lean:786]:
```suggestion
theorem toInt_eq (x : BitVec w) :
    x.toInt = if x.msb then (x.toNat : Int) - ((2^w : Nat) : Int) else x.toNat := by
  cases h : x.msb <;> simp [BitVec.toInt, msb_eq_false_iff_small, h]
```

This proof can be golved significantly

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -726,6 +726,71 @@ theorem getLsb_sshiftRight (x : BitVec w) (s i : Nat) :
...
+  omega
+
+/-- Equation theorem for 'Int.mod' -/
+private theorem Int.negSucc_emod (m : Nat) (n : Int) :
+  (Int.negSucc m) % n = Int.subNatNat (Int.natAbs n) (Nat.succ (m % Int.natAbs n)) := rfl
+
+
+/-- To sign extend when the msb is false, then sign extension is the same as truncation -/
+theorem signExtend_eq_neg_truncate_neg_of_msb_false {x : BitVec w} {v : Nat} (hmsb : x.msb = false) :
+    (x.signExtend v) = x.truncate v := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:744]:
```suggestion
    (x.signExtend v) = x.zeroExtend v := by
```

I feel zeroExtend is carrying more information, even thought hey are both aliases.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 3]
```diff
@@ -726,6 +726,71 @@ theorem getLsb_sshiftRight (x : BitVec w) (s i : Nat) :
...
+    rw [Int.ofNat_mod_ofNat, Int.toNat_ofNat]
+    simp only [Nat.testBit_mod_two_pow, hv, decide_True, Bool.true_and]
+    rw [BitVec.testBit_toNat]
+  · simp only [getLsb_zeroExtend, hv, decide_False, Bool.false_and]
+    apply getLsb_ge
+    omega
+
+/-- To sign extend when the msb is true, we perform double negation to make the high bits true. -/
+theorem signExtend_eq_neg_truncate_neg_of_msb_true {x : BitVec w} {v : Nat} (hmsb : x.msb = true) :
+    (x.signExtend v) = ~~~((~~~x).truncate v) := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:761]:
```suggestion
    (x.signExtend v) = ~~~((~~~x).zeroExtend v) := by
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 4]
```diff
@@ -726,6 +726,71 @@ theorem getLsb_sshiftRight (x : BitVec w) (s i : Nat) :
...
+@[simp] theorem getLsb_signExtend (x  : BitVec w) {v i : Nat} :
+    (x.signExtend v).getLsb i = (decide (i < v) && if i < w then x.getLsb i else x.msb) := by
+  rcases hmsb : x.msb with rfl | rfl
+  · rw [signExtend_eq_neg_truncate_neg_of_msb_false hmsb]
+    by_cases (i < v) <;> by_cases (i < w) <;> simp_all <;> omega
+  · rw [signExtend_eq_neg_truncate_neg_of_msb_true hmsb]
+    by_cases (i < v) <;> by_cases (i < w) <;> simp_all <;> omega
+
+@[simp] theorem signExtend_of_eq (x : BitVec w) :
+  x.signExtend w = x := by
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:786]: Should this not be a corollary following from the following desirable theorem?

```lean
theorem signExtend_le (x : BitVec w) (h: v <= w) : x.signExtend v = x.zeroExtend v
```

Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:786]: @tobiasgrosser I'm trying to keep the PR minimal, thanks for spotting that I should upstream `signExtend_of_eq `, and the suggested `signExtend_eq_zeroExtend_of_le` as a separate PR.

Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean]: Cool.

**Comment by bollu** [comment]
awaiting-review

File: src/Init/Data/BitVec/Lemmas.lean [hunk 5]
```diff
@@ -726,6 +726,61 @@ theorem getLsb_sshiftRight (x : BitVec w) (s i : Nat) :
...
+    (n : Int) - (m : Int) = -(↑(m - 1 - n) + 1) := by
+  omega
+
+/-- Equation theorem for 'Int.mod' -/
+private theorem Int.negSucc_emod (m : Nat) (n : Int) :
+    -(m + 1) % n = Int.subNatNat (Int.natAbs n) ((m % Int.natAbs n) + 1) := rfl
+
+
+/-- To sign extend when the msb is false, then sign extension is the same as truncation -/
+theorem signExtend_eq_neg_truncate_neg_of_msb_false {x : BitVec w} {v : Nat} (hmsb : x.msb = false) :
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:742]: Wrong name?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 6]
```diff
@@ -726,6 +726,61 @@ theorem getLsb_sshiftRight (x : BitVec w) (s i : Nat) :
...
+private theorem Int.ofNat_sub_ofNat_of_lt {n m : Nat} (hlt : n < m) :
+    (n : Int) - (m : Int) = -(↑(m - 1 - n) + 1) := by
+  omega
+
+/-- Equation theorem for 'Int.mod' -/
+private theorem Int.negSucc_emod (m : Nat) (n : Int) :
+    -(m + 1) % n = Int.subNatNat (Int.natAbs n) ((m % Int.natAbs n) + 1) := rfl
+
+
+/-- To sign extend when the msb is false, then sign extension is the same as truncation -/
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:741]: Just?
```suggestion
/-- The sign extension is the same as truncation when `msb = false`. -/
```

File: src/Init/Data/BitVec/Lemmas.lean [hunk 7]
```diff
@@ -726,6 +726,61 @@ theorem getLsb_sshiftRight (x : BitVec w) (s i : Nat) :
...
+  ext i
+  by_cases hv : i < v
+  · simp only [getLsb_zeroExtend, hv, decide_True, Bool.true_and]
+    rw [signExtend, getLsb]
+    simp only [toNat_ofInt]
+    rw [BitVec.toInt_eq_msb_cond]
+    simp only [hmsb, Bool.false_eq_true, ↓reduceIte]
+    rw [Int.ofNat_mod_ofNat, Int.toNat_ofNat]
+    simp only [Nat.testBit_mod_two_pow, hv, decide_True, Bool.true_and]
+    rw [BitVec.testBit_toNat]
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:753]: It seems a lot of switching between `simp only` and `rw`, but I guess some is necessary. Not sure if 
```
  · simp only [signExtend, getLsb, getLsb_zeroExtend, hv, decide_True, Bool.true_and, toNat_ofInt, 
      BitVec.toInt_eq_msb_cond, hmsb, ↓reduceIte]
    rw [Int.ofNat_mod_ofNat, Int.toNat_ofNat, Nat.testBit_mod_two_pow]
    simp [BitVec.testBit_toNat]
```
is an improvement or not. Up to you.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 8]
```diff
@@ -726,6 +726,61 @@ theorem getLsb_sshiftRight (x : BitVec w) (s i : Nat) :
...
+  · simp only [getLsb_zeroExtend, hv, decide_False, Bool.false_and]
+    apply getLsb_ge
+    omega
+
+/-- To sign extend when the msb is true, we perform double negation to make the high bits true. -/
+theorem signExtend_eq_neg_truncate_neg_of_msb_true {x : BitVec w} {v : Nat} (hmsb : x.msb = true) :
+    (x.signExtend v) = ~~~((~~~x).zeroExtend v) := by
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:760]: `truncate` in the name vs `zeroExtend` in the statement?

File: src/Init/Data/BitVec/Lemmas.lean [hunk 9]
```diff
@@ -726,6 +726,61 @@ theorem getLsb_sshiftRight (x : BitVec w) (s i : Nat) :
...
+    rw [BitVec.toInt_eq_msb_cond]
+    simp only [hmsb, Bool.false_eq_true, ↓reduceIte]
+    rw [Int.ofNat_mod_ofNat, Int.toNat_ofNat]
+    simp only [Nat.testBit_mod_two_pow, hv, decide_True, Bool.true_and]
+    rw [BitVec.testBit_toNat]
+  · simp only [getLsb_zeroExtend, hv, decide_False, Bool.false_and]
+    apply getLsb_ge
+    omega
+
+/-- To sign extend when the msb is true, we perform double negation to make the high bits true. -/
```
Comment (semorrison) [inline src/Init/Data/BitVec/Lemmas.lean:758]: I'd prefer a sentence
"The sign extension is ... when `msb = true`."

**Comment by semorrison** [comment]
Close now!

File: src/Init/Data/BitVec/Lemmas.lean (hunk 8 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean]: Thanks for catching this, @tobiasgrosser found `zeroExtend` more intuitive, but it slipped me to change it consistently everywhere else. Addressed now.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 9 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean]: Done.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 10]
```diff
@@ -726,6 +726,61 @@ theorem getLsb_sshiftRight (x : BitVec w) (s i : Nat) :
...
+private theorem Int.ofNat_sub_ofNat_of_lt {n m : Nat} (hlt : n < m) :
+    (n : Int) - (m : Int) = -(↑(m - 1 - n) + 1) := by
+  omega
+
+/-- Equation theorem for 'Int.mod' -/
+private theorem Int.negSucc_emod (m : Nat) (n : Int) :
+    -(m + 1) % n = Int.subNatNat (Int.natAbs n) ((m % Int.natAbs n) + 1) := rfl
+
+
+/-- The sign extension is the same as truncation when `msb = false`. -/
```
[the remark this answers is not in the document]
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean]: Addressed.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 11]
```diff
@@ -726,6 +726,60 @@ theorem getLsb_sshiftRight (x : BitVec w) (s i : Nat) :
...
+private theorem Int.ofNat_sub_ofNat_of_lt {n m : Nat} (hlt : n < m) :
+    (n : Int) - (m : Int) = -(↑(m - 1 - n) + 1) := by
+  omega
+
+/-- Equation theorem for 'Int.mod' -/
+private theorem Int.negSucc_emod (m : Nat) (n : Int) :
+    -(m + 1) % n = Int.subNatNat (Int.natAbs n) ((m % Int.natAbs n) + 1) := rfl
+
+
+/-- The sign extension is the same as zero extending when `msb = false`. -/
```
[the remark this answers is not in the document]
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:741]: I don't understand this proposed change.

File: src/Init/Data/BitVec/Lemmas.lean [hunk 12]
```diff
@@ -726,6 +726,60 @@ theorem getLsb_sshiftRight (x : BitVec w) (s i : Nat) :
         Nat.not_lt, decide_eq_true_eq]
       omega
 
+/-! ### signExtend -/
+
+/-- Equation theorem for 'Int.sub' when both arguments are 'negSucc' -/
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:731]: This documentation still mentions `negSucc`?

Also, what is an equation theorem?

File: src/Init/Data/BitVec/Lemmas.lean (hunk 11 above)
[the remark this answers is not in the document]
Comment (tobiasgrosser) [reply src/Init/Data/BitVec/Lemmas.lean:741]: It drops a newline.

**Review by tobiasgrosser — APPROVED** [review]

File: src/Init/Data/BitVec/Lemmas.lean (hunk 11 above)
[the remark this answers is not in the document]
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean:741]: Thanks, applied manually.

File: src/Init/Data/BitVec/Lemmas.lean (hunk 12 above)
Comment (bollu) [reply src/Init/Data/BitVec/Lemmas.lean]: Resolved, thanks.

**Comment by bollu** [comment]
awaiting-review

**Comment by tobiasgrosser** [comment]
@bollu, can you update the commit message accordingly.
